2146-05-17 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2146-5-16**] 01:39 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-16**] 09:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-5-17**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.2
C (97.2
   HR: 78 (76 - 103) bpm
   BP: 122/56(72) {94/46(66) - 137/78(82)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,773 mL
                                                                    847 mL
   PO:
           TF:
   IVF:
                                                                    129 mL
                                                                    147 mL
   Blood products:
                                                                  1,644 mL
                                                                    700 mL
   Total out:
                                                                  1,395 mL
                                                                    725 mL
   Urine:
                                                                  1,270 mL
                                                                    575 mL
   NG:
   Stool:
                                                                    125 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    378 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   59 K/uL
   8.0 g/dL
   124 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   54 mg/dL
   116 mEq/L
   147 mEq/L
   24.0 %
   0.7 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:53 PM
                             [**2146-5-16**]  08:30 PM
                             [**2146-5-17**]  01:30 AM
                             [**2146-5-17**]  05:18 AM
   WBC
   0.6
   0.7
   Hct
   17.8
   21.7
   24.0
   Plt
   37
   59
   59
   59
   Cr
   0.9
   0.8
   Glucose
   138
   124
   Other labs: PT / PTT / INR:14.7/28.6/1.3, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85 y/o M with MDS on decitabine (last cycle of chemotherapy given
   [**Date range (1) 12727**]/10) currently on antibiotics presenting with explosive
   diarrhea, bright red blood per rectum, and worsening anemia.
   .
   # GI bleed: Maroon stools that gradually darkened over the course of
   the day.  Large drop in Hct but no signs of hemodynamic compromise. As
   of [**5-17**], Required 5 units of blood, 1 unit of platelets
   - Should be scoped (EGD), today.
   - protonix gtt
   - transfuse Hct < 21, trend q4-6
   - transfuse plt < 50
   .
   # diarrhea
 No evidence of infectious etiology at this time.  Likely
   [**3-1**] catharsis from GI bleed.  C. diff negative.
   - EGD today
   - f/u stool cx
   .
   # Anemia/thrombocytopenia: Secondary to MDS, chemotherapy, and GI
   bleeding.
   - transfuse for Hct < 21
   - transfuse plt < [**Numeric Identifier 5736**]
   .
   # neutropenia
 Patient still neutropenic (had been hospitalized
   recently for neutropenic fevers).
   - no filgrastim in setting of MDS vs. AML
   - continue cefepime as treatment for neutropenic fevers per BMT recs;
   unspecified course at this time
   .
   # Myelodysplastic Syndrome on decitabine: Received C3 decitabine from
   [**4-25**] - [**4-29**].  Will treat supportively.
   - f/u BMT recs
   .
   # HTN: holding meds in setting of GI bleeding.
   # FEN/GI: NPO for now.
   # Prophylaxis: pneumoboots
   # Code:  Full
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-17 09:23:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received 2 units PRBC overnight (total 5 units PRBC transfusion this
   admission)
   Orthostatic by HR and BP earlier -- now resolved.
   Denies dyspnea, chest discomfort, abd pain.
   Continues with profuse diarrhea, inititally watery, now dark.  Concern
   for upper source.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-16**] 09:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-5-17**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, melena
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-17**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 70 (70 - 103) bpm
   BP: 114/49(64) {94/46(64) - 137/78(82)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,773 mL
                                                                    879 mL
   PO:
           TF:
   IVF:
                                                                    129 mL
                                                                    179 mL
   Blood products:
                                                                  1,644 mL
                                                                    700 mL
   Total out:
                                                                  1,395 mL
                                                                    975 mL
   Urine:
                                                                  1,270 mL
                                                                    825 mL
   NG:
   Stool:
                                                                    125 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    378 mL
                                                                    -96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   59 K/uL
   124 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   54 mg/dL
   116 mEq/L
   147 mEq/L
   24.0 %
   0.7 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:53 PM
                             [**2146-5-16**]  08:30 PM
                             [**2146-5-17**]  01:30 AM
                             [**2146-5-17**]  05:18 AM
   WBC
   0.6
   0.7
   Hct
   17.8
   21.7
   24.0
   Plt
   37
   59
   59
   59
   Cr
   0.9
   0.8
   Glucose
   138
   124
   Other labs: PT / PTT / INR:14.7/28.6/1.3, Ca++:8.2 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   85 y/o M with MDS on decitabine (last cycle of chemotherapy given
   [**Date range (1) 12727**]/10) currently  on antibiotics presenting with explosive
   diahhrea, bright red blood per rectum, and worsening anemia.
   .
   1. Bright red blood per reectum: GI will see patient in ED. Associated
   with drop in hematocrit but not hemodynamic compromise. Has good
   access.  Will treat supportiveley with blood, platelets, fluids if
   becomes hypotensive.
   -GI will not scope in setting of neutropenia
   -If worsens will do bleeding scan and send to angio.
   -type and screen
   -transfusion for Hct < 21
   -plts for < 50,000
   .
   2. Diahrea: sudden onset.  [**Month (only) 8**] be from GI bleeding or may be c.diff as
   patient is currently on antibiotics.  Possible due to blood as
   cathartic.
   -stool for c. diff, culture.
   .
   NEUTROPENIA -- persistent.  Continue empirical antimicrobials.  No
   plans for GM-CSF.
   3. Anemia: significant decrease in hematocrit to 18 from baseline 24.
   Secondary to MDS, chemotherapy, and GI bleeding.
   -transfuse for Hct < 21
   .
   4. Thrombocytopenia: from MDS and chemotherapy. transfuse during active
   bleeding with goal over 50,000.
   -transfuse < [**Numeric Identifier 5736**]
   .
   5. Myelodysplastic Syndrome on decitabine: Received C3 decitabine from
   [**4-25**] - [**4-29**].  will treat supportively.
   -recs per onc.
   .
   6. HTN: holding meds in setting of GI bleeding.
   .
   7. FEN/GI: NPO for now.
   .
   8. Prophylaxis: pneumoboots
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-05-18 07:22:00 Physician Resident Progress Note
Chief Complaint: Bloody diarrhea
   24 Hour Events:
   - f/u hct stable
   - GI scoped the patient - found a large ulcerated mass on the lesser
   curvature of the stomach, biopsy taken.
   - getting radiation tomorrow AM
   - GEN [**Doctor First Name **]: hold off surgery, defer to IR
   - recieved 2 units of PRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-17**] 08:51 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 72 (64 - 79) bpm
   BP: 125/57(75) {95/40(58) - 142/82(93)} mmHg
   RR: 21 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,846 mL
                                                                  1,218 mL
   PO:
           TF:
   IVF:
                                                                    606 mL
                                                                    451 mL
   Blood products:
                                                                  1,240 mL
                                                                    767 mL
   Total out:
                                                                  2,350 mL
                                                                    470 mL
   Urine:
                                                                  2,200 mL
                                                                    470 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -504 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   HEENT: AT/NC, PERRL, MMM no pharyngeal exudate
   CARDIOVASCULAR: RRR S1 S2 no murmurs/rubs/gallops
   RESP: CTAB, no wheezes, rhonchi or rales
   ABDOMEN: soft/ NT/ ND; NABS.  No palpable HSM
   EXT: no c/c/e
   NEURO: CN II- XII intact, strength 5/5 bilaterally
   Labs / Radiology
   65 K/uL
   8.9 g/dL
   128 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   39 mg/dL
   116 mEq/L
   148 mEq/L
   26.9 %
   0.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:53 PM
                             [**2146-5-16**]  08:30 PM
                             [**2146-5-17**]  01:30 AM
                             [**2146-5-17**]  05:18 AM
                             [**2146-5-17**]  09:35 AM
                             [**2146-5-17**]  03:58 PM
                             [**2146-5-17**]  08:46 PM
                             [**2146-5-18**]  02:03 AM
                             [**2146-5-18**]  05:52 AM
   WBC
   0.6
   0.7
   0.6
   Hct
   17.8
   21.7
   24.0
   23.8
   22.9
   23.6
   26.1
   26.9
   Plt
   37
   59
   59
   59
   55
   52
   52
   41
   65
   Cr
   0.9
   0.8
   0.8
   Glucose
   138
   124
   128
   Other labs: PT / PTT / INR:14.1/30.9/1.2, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85 y/o M with MDS on decitabine (last cycle of chemotherapy given
   [**Date range (1) 12727**]/10) currently on antibiotics presenting with explosive
   diarrhea, bright red blood per rectum, and worsening anemia.
   .
   # GI bleed: Maroon stools that gradually darkened over the course of
   the day.  Large drop in Hct but no signs of hemodynamic compromise. As
   of [**5-18**], Required 7 units of blood, 2 units of platelets. EGD on [**5-17**]
   showed large ulcerated mass on lesser curvature of stomach, bx taken,
   presumed recurrence of MALT lymphoma.
   - Will receive XRT today for presumed recurrence of MALT lymphoma,
   pre-treat with Zofran
   - f/up path reports
   - protonix gtt
   - transfuse Hct < 25, trend q6h
   - transfuse plt < 50
   .
   # diarrhea
 No evidence of infectious etiology at this time.  Likely
   [**3-1**] catharsis from GI bleed.  C. diff negative.
   - improved overnight, will monitor
   - f/u stool cx
   .
   #.Hypernatremia
 most likely due to volume depletion given NPO status
   since admission
   - IVF and check lytes
   .
   # Anemia/thrombocytopenia: Secondary to MDS, chemotherapy, and GI
   bleeding.
   - transfuse for Hct < 21
   - transfuse plt < [**Numeric Identifier 5736**]
   .
   # neutropenia
 Patient still neutropenic (had been hospitalized
   recently for neutropenic fevers).
   - no filgrastim in setting of MDS vs. AML
   - continue cefepime as treatment for neutropenic fevers per BMT recs;
   unspecified course at this time
   .
   # Myelodysplastic Syndrome on decitabine: Received C3 decitabine from
   [**4-25**] - [**4-29**].  Will treat supportively.
   - f/u BMT recs
   .
   # HTN: holding meds in setting of GI bleeding.
   .
   # FEN/GI: NPO for now.
   .
   # Prophylaxis: pneumoboots
   .
   # Code:  Full
   .
   # Communication: Patient
   .
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-18 10:39:00 Physician Attending Progress Note
Chief Complaint: GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EGD yesterday revealed
   Received additional 2 units PRBC overnight (total 7 units this
   admission)
   Dexamethasome initiated overnight per Heme/Onc.
   For XRT to gastric mass today.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-17**] 08:51 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-18**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 57 (57 - 79) bpm
   BP: 137/49(72) {95/40(58) - 142/66(80)} mmHg
   RR: 16 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  1,846 mL
                                                                  1,453 mL
   PO:
           TF:
   IVF:
                                                                    606 mL
                                                                    685 mL
   Blood products:
                                                                  1,240 mL
                                                                    767 mL
   Total out:
                                                                  2,350 mL
                                                                    470 mL
   Urine:
                                                                  2,200 mL
                                                                    470 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -504 mL
                                                                    983 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   65 K/uL
   128 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   39 mg/dL
   116 mEq/L
   148 mEq/L
   26.9 %
   0.6 K/uL
        [image002.jpg]
                             [**2146-5-16**]  04:53 PM
                             [**2146-5-16**]  08:30 PM
                             [**2146-5-17**]  01:30 AM
                             [**2146-5-17**]  05:18 AM
                             [**2146-5-17**]  09:35 AM
                             [**2146-5-17**]  03:58 PM
                             [**2146-5-17**]  08:46 PM
                             [**2146-5-18**]  02:03 AM
                             [**2146-5-18**]  05:52 AM
   WBC
   0.6
   0.7
   0.6
   Hct
   17.8
   21.7
   24.0
   23.8
   22.9
   23.6
   26.1
   26.9
   Plt
   37
   59
   59
   59
   55
   52
   52
   41
   65
   Cr
   0.9
   0.8
   0.8
   Glucose
   138
   124
   128
   Other labs: PT / PTT / INR:14.1/30.9/1.2, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   85 yom MDS, neutropenia, now with explosive diarrhea, bright red blood
   per rectum and worsening anemia.
   GI BLEED
 Source identified as gastric tumor, likely recurreance of
   MALToma.  No hemodynamic compromise.  Monitor stool output, serial
   exam, serial Hct.  Continue support with blood, platelets, iv fluids.
   Transfuse to Hct >23.  Transfuse plts >50 if active bleeding.  If
   rebleeds, plan IR intervention for possible embolization.  Gen Surgery
   also following.
   DIARRHEA -- Resolved.  Possible due to blood as cathartic.  Check
   stool for c. diff, culture.
   NEUTROPENIA -- persistent.  Continue empirical antimicrobials.  No
   plans for GM-CSF.
   ANEMIA --  significant decrease in Hct to 18 from baseline 24.
   Attributed to MDS, chemotherapy, and GI bleeding. Transfuse for Hct <
   23
   THROMBOCYTOPENIA
 attributed to MDS and chemotherapy.  Transfuse if
   <50k if active bleeding.
   MDS
 Continue decitabine.  Received C3 decitabine from [**2146-4-25**] -
   [**2146-4-29**].  Continue treat supportively.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   FLUIDS
 monitor I/O.  Maintain balance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-05-19 07:22:00 Physician Resident Progress Note
Chief Complaint: Bloody diarrhea
   24 Hour Events:
   - received 1st dose of XRT yesterday; recs --> aquaphor ointment and
   zofran peri-xrt
   - started on clears
   - no further episodes of diarrhea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-18**] 07:43 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-5-19**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 54 (43 - 61) bpm
   BP: 105/50(63) {93/27(44) - 137/52(103)} mmHg
   RR: 7 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,534 mL
                                                                    299 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,527 mL
                                                                    179 mL
   Blood products:
                                                                    767 mL
   Total out:
                                                                  1,195 mL
                                                                    425 mL
   Urine:
                                                                  1,195 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   HEENT: AT/NC, PERRL, MMM no pharyngeal exudate
   CARDIOVASCULAR: RRR S1 S2 no murmurs/rubs/gallops
   RESP: CTAB, no wheezes, rhonchi or rales
   ABDOMEN: soft/ NT/ ND; NABS.  No palpable HSM
   EXT: no c/c/e
   NEURO: CN II- XII intact, strength 5/5 bilaterally
   Labs / Radiology
   41 K/uL
   8.5 g/dL
   153 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   37 mg/dL
   113 mEq/L
   144 mEq/L
   25.1 %
   0.7 K/uL
        [image002.jpg]
                             [**2146-5-17**]  05:18 AM
                             [**2146-5-17**]  09:35 AM
                             [**2146-5-17**]  03:58 PM
                             [**2146-5-17**]  08:46 PM
                             [**2146-5-18**]  02:03 AM
                             [**2146-5-18**]  05:52 AM
                             [**2146-5-18**]  10:54 AM
                             [**2146-5-18**]  05:30 PM
                             [**2146-5-18**]  11:16 PM
                             [**2146-5-19**]  04:18 AM
   WBC
   0.7
   0.6
   0.7
   Hct
   24.0
   23.8
   22.9
   23.6
   26.1
   26.9
   26.9
   25.7
   24.5
   25.1
   Plt
   59
   55
   52
   52
   41
   65
   56
   41
   Cr
   0.8
   0.8
   0.7
   0.8
   Glucose
   124
   128
   153
   Other labs: PT / PTT / INR:13.8/31.1/1.2, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 y/o M with MDS on decitabine (last cycle of chemotherapy given
   [**Date range (1) 12727**]/10) currently on antibiotics presenting with explosive
   diarrhea, bright red blood per rectum, and worsening anemia.
   .
   # GI bleed: Maroon stools that gradually darkened over the course of
   the day.  Large drop in Hct but no signs of hemodynamic compromise. As
   of [**5-18**], Required 7 units of blood, 2 units of platelets. EGD on [**5-17**]
   showed large ulcerated mass on lesser curvature of stomach, bx taken,
   presumed recurrence of MALT lymphoma.  Hct stable over past 36 hours
   with no further episodes of diarrhea.
   - continue XRT for presumed recurrence of MALT lymphoma, pre-treat with
   Zofran and aquaphor ointment
   - f/up path reports
   - switch gtt to protonix [**Hospital1 **]
   - transfuse Hct < 21, check pm Hct
   - transfuse plt < 50
   .
   # diarrhea
 No evidence of infectious etiology at this time.  Likely
   [**3-1**] catharsis from GI bleed.  C. diff negative.
   - no further episodes since [**5-17**], will continue to monitor
- f/u stool cx
 NO ENTERIC GRAM NEGATIVE RODS FOUND. NO SALMONELLA OR SHIGELLA
FOUND.  Campylobacter pending.
   .
   #.Hypernatremia
 most likely due to volume depletion given NPO status
   since admission.  Improved with IVF.
   - IVF and check lytes
   .
   # Anemia/thrombocytopenia: Secondary to MDS, chemotherapy, and GI
   bleeding.
   - transfuse for Hct < 21
   - transfuse plt < 50
   .
   # neutropenia
 Patient still neutropenic (had been hospitalized
   recently for neutropenic fevers).
   - no filgrastim in setting of MDS vs. AML
   - continue cefepime as treatment for neutropenic fevers per BMT recs;
   unspecified course at this time
   .
   # Myelodysplastic Syndrome on decitabine: Received C3 decitabine from
   [**4-25**] - [**4-29**].  Will treat supportively.
   - f/u BMT recs
   .
   # HTN: holding meds in setting of GI bleeding.
   .
   # FEN/GI: NPO for now.
   .
   # Prophylaxis: pneumoboots
   .
   # Code:  Full
   .
   # Communication: Patient
   .
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-05-19 11:10:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continues to receive XRT (session #2 this AM).
   No further bleeding.  No requirement for blood transfusion.
   No diarrhea.
   Up in chair.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2146-5-19**] 07:38 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2146-5-19**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**48**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 59 (43 - 61) bpm
   BP: 122/52(69) {93/27(44) - 129/52(103)} mmHg
   RR: 22 (0 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,534 mL
                                                                    474 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,527 mL
                                                                    354 mL
   Blood products:
                                                                    767 mL
   Total out:
                                                                  1,195 mL
                                                                    750 mL
   Urine:
                                                                  1,195 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,339 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   41 K/uL
   153 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   37 mg/dL
   113 mEq/L
   144 mEq/L
   25.1 %
   0.7 K/uL
        [image002.jpg]
                             [**2146-5-17**]  05:18 AM
                             [**2146-5-17**]  09:35 AM
                             [**2146-5-17**]  03:58 PM
                             [**2146-5-17**]  08:46 PM
                             [**2146-5-18**]  02:03 AM
                             [**2146-5-18**]  05:52 AM
                             [**2146-5-18**]  10:54 AM
                             [**2146-5-18**]  05:30 PM
                             [**2146-5-18**]  11:16 PM
                             [**2146-5-19**]  04:18 AM
   WBC
   0.7
   0.6
   0.7
   Hct
   24.0
   23.8
   22.9
   23.6
   26.1
   26.9
   26.9
   25.7
   24.5
   25.1
   Plt
   59
   55
   52
   52
   41
   65
   56
   41
   Cr
   0.8
   0.8
   0.7
   0.8
   Glucose
   124
   128
   153
   Other labs: PT / PTT / INR:13.8/31.1/1.2, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   85 yom MDS, neutropenia, now with GI bleed
 attributed to gastric
   mass.
   GI BLEED
 Source identified as gastric tumor, likely recurreance of
   MALToma.  No hemodynamic compromise.  Monitor stool output, serial
   exam, serial Hct.  Continue support with blood, platelets, iv fluids.
   Transfuse to Hct >23.  Transfuse plts >50 if active bleeding.  If
   rebleeds, plan IR intervention for possible embolization.  Gen Surgery
   also following.
   DIARRHEA -- Resolved.  Possible due to blood as cathartic.  Check
   stool for c. diff, culture.
   NEUTROPENIA -- persistent.  Continue empirical antimicrobials.  No
   plans for GM-CSF.
   ANEMIA --  significant decrease in Hct = 18 (baseline Hct= 24).
   Attributed to MDS, chemotherapy, and GI bleeding. Transfuse for Hct <
   23
   THROMBOCYTOPENIA
 attributed to MDS and chemotherapy.  Transfuse if
   <50k if active bleeding.
   MDS
 Continue decitabine.  Received C3 decitabine from [**2146-4-25**] -
   [**2146-4-29**].  Continue treat supportively.
   NUTRITIONAL SUPPORT
 NPO pending evaluation.
   FLUIDS
 monitor I/O.  Maintain balance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2146-5-16**] 01:39 PM
   18 Gauge - [**2146-5-16**] 01:39 PM
   20 Gauge - [**2146-5-16**] 01:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill